US07576072B2
Step C: Preparation of 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethoxyamide.
O-Ethyl-hydroxylamine HCl salt (2.50 equivalents) is added to a solution of 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester (1.00 equivalent) in THF. The solution is cooled to 0° C. and lithium bis(trimethylsilyl)amide (6.00 equivalents, 1.0 M solution in hexanes) is added dropwise. The reaction mixture is warmed to room temperature. After stirring for 1 hour, the reaction is quenched by addition of a saturated aqueous solution of NaHCO3 and partitioned between EtOAc and brine. The aqueous layer is re-extracted with EtOAc. The combined organic extracts is dried (MgSO4) and concentrated. The product is purified by flash chromatography as necessary.

reactant | O-Ethyl-hydroxylamine HCl salt | 2.50 equivalents | Cl.C(C)ON
reactant | 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethyl ester | 1.00 equivalent | C(C)OC(=O)C1=NC=2N(C(=C1NC1=C(C=C(C=C1)SC)F)C)N=CC2 | C17H17FN4O2S
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 6.00 equivalents | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 6-(2-fluoro-4-methylsulfanyl-phenylamino)-7-methylpyrazolo[1,5-a]pyrimidine-5-carboxylic acid ethoxyamide | C(C)ONC(=O)C1=NC=2N(C(=C1NC1=C(C=C(C=C1)SC)F)C)N=CC2 | C17H18FN5O2S
